US08912169B2
Step 1: Synthesis of (4-Benzylamino-1-hydroxy-cyclohexyl)-acetic acid benzyl ester
Prepared from (1-Hydroxy-4-oxo-cyclohexyl)-acetic acid benzyl ester and benzylamine following the procedure described in Step 2 of Example 43. The crude product was purified by flash chromatography on silica gel (0-10% CH3OH:CH2Cl2). ESI-MS m/z 354 (MH)+.

reactant | (1-Hydroxy-4-oxo-cyclohexyl)-acetic acid benzyl ester | C(C1=CC=CC=C1)OC(CC1(CCC(CC1)=O)O)=O | C15H18O4
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
product | (4-Benzylamino-1-hydroxy-cyclohexyl)-acetic acid benzyl ester | C(C1=CC=CC=C1)OC(CC1(CCC(CC1)NCC1=CC=CC=C1)O)=O | C22H27NO3
